US07563903B2
1.2 2-(phenoxymethyl)phenylboronic acid
90 ml of n-butyllithium (1.6 M) in solution in hexane are added dropwise at −70° C. to 36 g of 1-bromo-2-(phenoxymethyl)benzene, obtained in step 1.1, in solution in 150 ml of tetrahydrofuran. After 2 hours at −70° C., 16 ml of trimethyl borate are introduced dropwise. The temperature of the reaction medium is allowed to rise to −30° C. The medium is hydrolysed with a saturated ammonium chloride solution, and then extracted with ethyl acetate and the organic phase is dried with anhydrous sodium sulphate. After evaporation, 33 g of a white solid are obtained.

reactant | n-butyllithium | 1.6 M, 90 ml | C(CCC)[Li]
reactant | 1-bromo-2-(phenoxymethyl)benzene | BrC1=C(C=CC=C1)COC1=CC=CC=C1 | C13H11BrO
reactant | trimethyl borate | 16 ml | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(phenoxymethyl)phenylboronic acid | O(C1=CC=CC=C1)CC1=C(C=CC=C1)B(O)O | C13H13BO3
